US04293330
o-N,N-Diethylsulfamoylbenzenesulfonyl isocyanate
A solution of 13.2 g of N,N-diethyl-1,2-benzenedisulfonamide, 4.5 g of n-butylisocyanate, and 0.2 g of 1,4-diaza[2,2,2]bicyclooctane (DABCO) in 90 ml of mixed xylenes was heated to 135°. To this solution was added 3.3 ml of liquid phosgene at such a rate that the temperature was maintained between 125 and 135° (about 2 hours). The temperature was kept at 130° for 1/2 hour after the addition. The solution was cooled and filtered to remove a small amount of insoluble solid then concentrated at 60°-70° in-vacuo. The residue of o-N,N-diethylsulfamoylbenzenesulfonyl isocyanate was an oil weighing 16.8 g and was sufficiently pure for further reaction.

reactant | N,N-diethyl-1,2-benzenedisulfonamide | 13.2 g | C(C)N(S(=O)(=O)C=1C(=CC=CC1)S(=O)(=O)N)CC | C10H16N2O4S2
reactant | n-butylisocyanate | 4.5 g | C(CCC)N=C=O | C5H9NO
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
product | o-N,N-Diethylsulfamoylbenzenesulfonyl isocyanate | C(C)N(S(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)N=C=O)CC | C11H14N2O5S2
